US05994368
To a solution of 2,6-dichloro-3-nitrobenzyl alcohol (5.0 g) in N,N-dimethylformamide (25 ml) were added imidazole (1.69 g) and tert-butyldiphenylsilyl chloride (6.0 ml) at ambient temperature with stirring. After 8 hours, the mixture was diluted with water (25 ml) and was extracted with ethyl acetate twice. The organic layer was washed with water and brine, dried over magnesium sulfate. The solvent was removed in vacuo to give 1-(tert-butyldiphenylsilyloxy-methyl)-2,6-dichloro-3-nitrobenzene (11.5 g) as an oil.

reactant | 2,6-dichloro-3-nitrobenzyl alcohol | 5.0 g | ClC1=C(CO)C(=CC=C1[N+](=O)[O-])Cl | C7H5Cl2NO3
reactant | imidazole | 1.69 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 6.0 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
product | 1-(tert-butyldiphenylsilyloxy-methyl)-2,6-dichloro-3-nitrobenzene | 11.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C23H23Cl2NO3Si
